US08629166B2
a) 5-Cyclohex-1-enyl-6-(2,2,2-trifluoroethoxy)nicotinic acid methylester
5-Bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester (CAN 1211589-51-3), 200 mg, 637 μmol), 2-cyclohexenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (CAN 141091-37-4, 119 mg, 123 μA, 574 μmol), K3PO4 (409 mg, 1.91 mmol) and PdCl2(dppf)-CH2Cl2 adduct (26.0 mg, 31.8 μmol) were combined in degassed DMF (4.38 mL)/THF (1.46 mL) to give a yellow suspension. The mixture was heated to 70° C. and shaken overnight. After cooling the mixture was poured into 100 mL saturated NaHCO3/ice water and extracted with i-propyl acetate (2×100 mL). The organic layers were washed with ice/brine (1×150 mL), combined, dried with Na2SO4 and concentrated in vacuo to give 283 mg of a brown oil. The crude material was purified by preparative TLC (silica gel, 2×2.0 mm, n-heptane/iPrOAc 9:1) to give the title compound (129 mg, 64%) as colorless solid; MS (ESI) 316.2 (M+H)+.

reactant | 5-Bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1C=NC(=C(C1)Br)OCC(F)(F)F | C9H7BrF3NO3
reactant | 2-cyclohexenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 574 μmol, 119 mg | C1(=CCCCC1)B1OC(C(O1)(C)C)(C)C | C12H21BO2
reactant | K3PO4 | 1.91 mmol, 409 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | THF | 1.46 mL | C1CCOC1 | C4H8O
solvent | DMF | 4.38 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) CH2Cl2 | 31.8 μmol, 26.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-Cyclohex-1-enyl-6-(2,2,2-trifluoroethoxy)nicotinic acid methylester | 283 mg | COC(C1=CN=C(C(=C1)C1=CCCCC1)OCC(F)(F)F)=O | C15H16F3NO3
